US04540818
34.1 g (0.1 mol) of 3,3'-dinitro-4,4'-dichlorbenzophenone, 1.5 g of 5% Pd/C, and 100 ml of ethanol were charged in a closed glass vessel equipped with a thermometer and a stirrer. While stirring the mixture at a temperature of 50° to 60° C., hydrogen was introduced thereinto and 22.9 l (1.02 mol) of hydrogen was absorbed in 7.5 hours. Since no more absorption of hydrogen was observed, the reaction was terminated at this point. The reaction solution was neutralized with 13.4 g (0.22 mol) of 28% aqueous ammonia and filtered to remove the catalyst. The filtrate was concentrated to give 3,3'-diaminodiphenylmethane as a brown oil. A high performance liquid chromatography revealed that the purity was 93.8%.

reactant | 3,3'-dinitro-4,4'-dichlorbenzophenone | 0.1 mol, 34.1 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=C(C=C2)Cl)[N+](=O)[O-])C=CC1Cl | C13H6Cl2N2O5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 1.02 mol, 22.9 l | [H][H] | H2
reactant | ammonia | 0.22 mol, 13.4 g | N | H3N
catalyst | Pd/C | 1.5 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,3'-diaminodiphenylmethane | yield 85% | C1=CC(=CC(=C1)N)CC2=CC(=CC=C2)N | C13H14N2
